US08071592B2
(e) (8-Ethyl-7-fluoro-2-oxo-1,5-naphthyridin-1(2H)-yl)acetaldehyde
8-ethyl-7-fluoro-1-(2-propen-1-yl)-1,5-naphthyridin-2(1H)-one (0.181 g, 0.781 mmol) was dissolved in 1,4-dioxane (4.0 mL) and water (3.5 ml) at rt under argon. Then sodium periodate (0.418 g, 1.95 mmol) was added followed by osmium tetroxide (0.175 mL of 4% aqueous solution). After 10 mins a white precipitate came out of solution, further addition of water (2 ml) was required to re-dissolve everything. After the reaction had been left stirring at rt overnight, it was then diluted with brine (20 ml) and EtOAc (20 ml). The aqueous was then separated and washed a further with EtOAc (3×20 ml). The organic layers were then combined, dried using sodium sulphate, filtered and solvent removed to give the crude product as a yellow solid (0.168 g).

reactant | 8-ethyl-7-fluoro-1-(2-propen-1-yl)-1,5-naphthyridin-2(1H)-one | 0.781 mmol, 0.181 g | C(C)C=1C(=CN=C2C=CC(N(C12)CC=C)=O)F | C13H13FN2O
reactant | water | 3.5 ml | O | H2O
reactant | sodium periodate | 1.95 mmol, 0.418 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | water | 2 ml | O | H2O
solvent | 1,4-dioxane | 4.0 mL | O1CCOCC1 | C4H8O2
solvent | brine | 20 ml | [Cl-].[Na+].O
solvent | EtOAc | 20 ml | CCOC(=O)C | C4H8O2
catalyst | osmium tetroxide | 0.175 mL | [Os](=O)(=O)(=O)=O
product | (8-Ethyl-7-fluoro-2-oxo-1,5-naphthyridin-1(2H)-yl)acetaldehyde | 0.168 g | C(C)C=1C(=CN=C2C=CC(N(C12)CC=O)=O)F | C12H11FN2O2
